US08383820B2
3-[2-(Tetrahydro-pyran-4-yl)-ethoxy]-benzoic acid
Prepared from tetrahydro-2H-pyran-4-yl-ethanol and ethyl 3-hydroxybenzoate.

reactant | tetrahydro-2H-pyran-4-yl-ethanol | O1CCC(CC1)C(C)O | C7H14O2
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | 3-[2-(Tetrahydro-pyran-4-yl)-ethoxy]-benzoic acid | O1CCC(CC1)CCOC=1C=C(C(=O)O)C=CC1 | C14H18O4
